US09422331B2
A rt solution of tert-butyl(S)-1-((3S,4S)-5-acetyl-7-cyano-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (60 mg, 97.8 μmol) in 4 M HCl in dioxane (489 μl) was stirred for 1 h. The reaction was diluted with Et2O and the solids were collected by vacuum filtration, taken up in MeCN—H2O, and lyophilized to provide (S)-N-((3S,4S)-5-acetyl-7-cyano-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride (43.0 mg, 80%) as an off-white solid. MS m/z 514 (MH)+.

reactant | tert-butyl(S)-1-((3S,4S)-5-acetyl-7-cyano-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 97.8 μmol, 60 mg | C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O)CC1=C(C=CC3=CC=CC=C13)OC)C=CC(=C2)C#N | C34H39N5O6
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 489 μl | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
product | (S)-N-((3S,4S)-5-acetyl-7-cyano-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride | 43.0 mg, 80% | Cl.C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)NC)=O)=O)CC1=C(C=CC3=CC=CC=C13)OC)C=CC(=C2)C#N | InChI=1S/C29H31N5O4.ClH/c1-17(31-4)28(36)32-27-18(2)34(19(3)35)25-14-20(15-30)10-12-24(25)33(29(27)37)16-23-22-9-7-6-8-21(22)11-13-26(23)38-5;/h6-14,17-18,27,31H,16H2,1-5H3,(H,32,36);1H/t17-,18-,27-;/m0./s1
